### PR TITLE
pickles: the check_bulletproof seam — transcript half on both sides, algebra half at the generic level

### PR DESCRIPTION
**Pull request by martyall**
## Summary

The `check_bulletproof` seam of `incrementally_verify_proof`, the second tower of the group side after the fq-sponge seam (#329, #330).

### Verifier side (`Bulletproof/Wire.lean`)
- The prechallenge level of the opening transcript: `ipaSqueezes`, `ipaPrechallenges`, and `transcriptFrom_eq_ipaPrechallenges`, identifying `transcriptFrom`'s `U` base, round challenges and `c` with the map-to-curve and endo-expansions of the raw squeezes from a warm state.
- The Schnorr equation at given advice: `schnorrAt`, with `verifyWith_eq` splitting `verifyWith` into it (at `cipOf`, `combinedB`, the combined commitment) and the `sg` equation.

### Lean port (`Pickles/CheckBulletproof.lean`)
- `checkBulletproof` and its sub-gadgets in PS's emission order, with the deployed `IpaScalarOps.{step,wrap}` and `IpaEndo.{pallas,vesta}`.
- **Transcript half**: `checkBulletproof_spec` — `t`, the round prechallenges and `c` read as `ipaSqueezes` from the sponge's reading; `CheckBulletproofReads.wire` at the deployed fields, each prechallenge its `ipaPrechallenges` counterpart up to `PrechallengeAlias`.
- **Algebra half, generic**: `checkBulletproof_spec_success` — the success bit reads `1` iff `SchnorrPoint` (the Schnorr equation over the gadgets' `W.Point`) holds at the readings: `combinePolynomials` as the masked Horner fold `hornerCombine` (`combinePolynomials_spec`), `bulletReduce` as the challenge fold `lrSum` (`bulletReduce_spec`), `ipaFinalCheck` deciding the equation (`ipaFinalCheck_spec`).

### CS match
- OCaml exposes `check_bulletproof` on both sides (mina `cip-wrap-dump`, pointer bumped); the `check_bulletproof_{step,wrap}_circuit` dumps and fixtures; PS harnesses `CheckBulletproof{Step,Wrap}` (layout + library call); `check_cs.lean` targets. The wrap side surfaced one port bug — PS's record `if_` selects `y` before `x` — fixed in `selectPoint`.

### Still open (recorded in the plan doc, not in this PR)
The deployed transport of `SchnorrPoint` to `Bulletproof.Ipa.schnorrAt` at Pallas/Vesta. The generic theorem takes as hypotheses three snarky-level facts that do not exist yet: a *soundness* reading of the group-map gadget as `toGroup` (only completeness reaches it today), the canonical Vesta ladder decode behind `scaleFast1` (`vesta_varBaseMul_read` needs a witness-level lock), and any Pallas ladder reading.

## Gates
Full Lean build, style, the pickles (45 roots), bulletproof (33) and snarky (134) axiom gates, deadcode, shake, lint; circuit-diffs suite with export and the `check_cs` corpus (48 targets, both new ones included); purs-tidy.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: formal/scripts/check_cs.lean [hunk 1]
```diff
@@ -726,6 +727,44 @@ def fqSpongeTranscriptWrapCircuit (input : Vector (FVar Fq) 55) : CircuitM Fq Cq
...
+Transcribe `Pickles.CircuitDiffs.PureScript.CheckBulletproofStep` and `CheckBulletproofWrap`:
+`Pickles.checkBulletproof` from a sponge at `sponge_before_evaluations` on either side,
+the step side at `IpaScalarOps.step`/`IpaEndo.pallas` over the 170-input layout, the wrap
+side at `IpaScalarOps.wrap`/`IpaEndo.vesta` over the 172-input layout with the two `sg_old`
+bases under their mask bits. The SRS blinding base `h` is a constant on both sides, as in
+production. -/
+
+/-- The Pallas SRS's blinding base `h` (production's, recorded as `srs_h` in
+`bulletproof-pcs/fixtures/ipa_batch_pallas.json`). -/
+def blindingHPallas : AffinePoint (FVar Fp) :=
```
Comment (martyall) [inline formal/scripts/check_cs.lean]: isnt this part of the srs we already read in ?

File: formal/bulletproof-pcs/Bulletproof/Wire.lean [hunk 2]
```diff
@@ -290,6 +291,155 @@ def verifyFrom (σ : SRS C.Point) (s₀ : FqSponge.S C.base) (inp : Input C σ.k
 def verify (σ : SRS C.Point) (inp : Input C σ.k m p) : Bool :=
   verifyFrom C σ FqSponge.init inp
 
+
+/-! ## The prechallenge level
```
Comment (martyall) [inline formal/bulletproof-pcs/Bulletproof/Wire.lean:295]: this seems to lack maximal privacy

File: formal/pickles/Pickles/CheckBulletproof.lean [hunk 3]
```diff
@@ -364,6 +387,502 @@ theorem checkBulletproof_spec (h2 : (2 : F) ≠ 0) (h3 : (3 : F) ≠ 0) {sf : Ty
...
+    (bm : AffinePoint (FVar F) × Option (BoolVar F)) (v : W.Point × Bool) : Prop :=
+  OnCurveAt W V bm.1 v.1 ∧
+    match bm.2 with
+    | none => v.2 = true
+    | some keep => (↑keep : CVar F).val V = bit v.2
+
+omit [ToNat F] in
+/-- Under any valuation satisfying the emitted constraints, the selected point reads as the
+selected reading. -/
+private theorem selectPoint_spec (b : BoolVar F) (t e : AffinePoint (FVar F)) :
```
Comment (martyall) [inline formal/pickles/Pickles/CheckBulletproof.lean]: Dont we already have ths? Or at least a generic select? This definitely belongs in some Point type module if not, or wherere other OnCurve defs are given

File: formal/pickles/Pickles/CheckBulletproof.lean [hunk 4]
```diff
@@ -138,19 +138,36 @@ def extractScalarChallenges (p : Poseidon.Params F) (endo : FVar F) :
...
+  | [] => pure []
+  | q :: qs => do
+    let lScaled ← endoInv e.d.endo e.d.W e.q e.hq e.lam q.1.1 q.2
+    let rScaled ← endoMul e.d.endo 32 q.1.2 q.2
+    let r ← addFast .checkFinite lScaled rScaled
+    let rest ← bulletTerms e qs
+    pure (r.p :: rest)
+
+/-- The running sum of points from an accumulator (OCaml `Array.reduce_exn ~f:add_fast`). -/
+def sumPoints : AffinePoint (FVar F) → List (AffinePoint (FVar F)) →
```
Comment (martyall) [inline formal/pickles/Pickles/CheckBulletproof.lean:149]: I could swear we already have this

File: formal/pickles/Pickles/CheckBulletproof.lean [hunk 5]
```diff
@@ -160,6 +177,20 @@ def selectPoint (b : BoolVar F) (t e : AffinePoint (FVar F)) :
   let x ← selectField b t.x e.x
   pure ⟨x, y⟩
 
+/-- The Horner fold of `combinePolynomials` from an accumulator over the remaining (reversed)
+bases: `acc ← base + ξ·acc`, a masked base kept or skipped by its bit. -/
+def hornerFold (e : IpaEndo F) (xi : SizedF 128 (FVar F)) :
```
Comment (martyall) [inline formal/pickles/Pickles/CheckBulletproof.lean:169]: dont we have this defined elsewhere?

File: formal/pickles/Pickles/CheckBulletproof.lean [hunk 6]
```diff
@@ -364,6 +387,502 @@ theorem checkBulletproof_spec (h2 : (2 : F) ≠ 0) (h3 : (3 : F) ≠ 0) {sf : Ty
...
+      List.Forall₂ (fun q v => PairReads e.d.W V q.1 v) pairs pv → pairs ≠ [] →
+      ∃ ns : List ℕ, List.Forall₂ (fun q m => Reads128 V q.2 m) pairs ns ∧
+        OnCurveAt e.d.W V r (lrSum (List.zipWith (lrTerm e.d.lam) pv ns))⌝⦄ := by
+  rw [builder_spec_iff]
+  intro nv hsat pv hp hne
+  exact (builder_spec_iff _ _).mp (bulletReduce_spec e hchar pairs pv hp hne) nv hsat
+
+omit [ToNat F] in
+/-- Under the pinned infinity flag, `addFast`'s reading is the sum. -/
+private theorem addFast_read (e : IpaEndo F) {r : AddResult F} {p1 p2 : AffinePoint (FVar F)}
```
Comment (martyall) [inline formal/pickles/Pickles/CheckBulletproof.lean]: surely this exists already as a result of the theorem wel ateady have?

File: formal/pickles/Pickles/CheckBulletproof.lean [hunk 7]
```diff
@@ -364,6 +387,502 @@ theorem checkBulletproof_spec (h2 : (2 : F) ≠ 0) (h3 : (3 : F) ≠ 0) {sf : Ty
...
+  · intro hS
+    rw [hS] at hlhs'
+    obtain ⟨hxe, hye⟩ := Kimchi.Gate.AddComplete.IsPoint.coords_eq hlhs' hrhs'
+    simp only [hxe, hye, decide_true, Bool.and_self] at hsucc
+    simpa [bit] using hsucc
+
+
+/-- `ipaFinalCheck_spec` with the readings of `u` and the combined commitment carried into the
+postcondition. -/
+private theorem ipaFinalCheck_spec' {sf : Type}
```
Comment (martyall) [inline formal/pickles/Pickles/CheckBulletproof.lean]: why do we need 2 such theroems

File: formal/scripts/check_cs.lean (hunk 1 above)
Comment (martyall) [reply formal/scripts/check_cs.lean]: Now read from the fixtures: `blindingBase` parses `srs_h` from `ipa_batch_{pallas,vesta}.json` (the same production SRS the IPA fixture checks use), `targets` takes the two points and `main` loads them, with the `BULLETPROOF_FIXTURES_DIR` override the other fixture scripts use.

File: formal/bulletproof-pcs/Bulletproof/Wire.lean (hunk 2 above)
Comment (martyall) [reply formal/bulletproof-pcs/Bulletproof/Wire.lean:295]: `absorbFr_eq` is private now. `scalarLimbs`, `ipaRound` and `ipaRound_foldl` stay public: the pickles statements and proofs use them.

File: formal/pickles/Pickles/CheckBulletproof.lean (hunk 3 above)
Comment (martyall) [reply formal/pickles/Pickles/CheckBulletproof.lean]: There is a generic `select` (`IfThenElse`), whose docstring already records the second-then-first rule. Moved to a new `Snarky/Kimchi/Circuit/Point.lean` as the `AffinePoint` instance (`instIfThenElseAffinePoint`, `selectPoint_spec`), and the gadget now says `select`. `scaleFast2` inlines the same two selects; left as is, since changing it re-runs its proof for identical rows.

File: formal/pickles/Pickles/CheckBulletproof.lean (hunk 6 above)
Comment (martyall) [reply formal/pickles/Pickles/CheckBulletproof.lean]: Right, it is the corollary of `addFast_spec` under the pinned flag. Now `Snarky.Kimchi.addFast_checkFinite_spec` in `Point.lean` (with `OnCurveAt.ne_zero`), and the pickles proofs use it directly, which also removes every `W`/`ha`/`htwo` case.

File: formal/pickles/Pickles/CheckBulletproof.lean (hunk 7 above)
Comment (martyall) [reply formal/pickles/Pickles/CheckBulletproof.lean]: Merged: `ipaFinalCheck_spec` is stated once, with the readings of `u` and the combined commitment inside the postcondition.

File: formal/pickles/Pickles/CheckBulletproof.lean (hunk 4 above)
Comment (martyall) [reply formal/pickles/Pickles/CheckBulletproof.lean:149]: Nothing shared existed: the running point sum was inline in `check_cs`'s `bullet_reduce` targets, which now go through the library. Kept as `sumPoints`.

File: formal/pickles/Pickles/CheckBulletproof.lean (hunk 5 above)
Comment (martyall) [reply formal/pickles/Pickles/CheckBulletproof.lean:169]: The scalar side's masked Horner (`CombinedInnerProduct.hornerStep`) is over field elements with `*`; this one is over points with `endoMul` + `addFast`. Same shape, different gadgets, so no shared definition without a scalar-action abstraction the field side lacks. Left as is.
